US06900227B2
Preparation of 2-fluoro-4,5-dimethoxy-benzenesulfonyl chloride
To a suspension of sulfur trioxide N,N-dimethylformamide complex (4.108 g, 27 mmol) in 1,2-dichloroethane was added 4-fluoroveratrole (30.49 g, 22 mmol) dropwise. The mixture was slowly heated to 85° C. in an oil bath. After 2.5 h, the solids had dissolved to afford a golden yellow solution. A trace of starting material was still present and heating was continued for a further 4.5 h. The oil bath was removed and thionyl chloride (1.95 mL, 27 mmol) added dropwise. The mixture was heated 4 h at 85° C. and allowed to cool to room temperature. The solution was poured into water and extracted with dichloromethane (3×50 mL), the combined organics washed with water, dried over magnesium sulfate and evaporated. Remaining traces of N,N-dimethylformamide were removed azeotropically with toluene to afford the product as an off-white solid that was used without further purification.

reactant | 4-fluoroveratrole | 22 mmol, 30.49 g | FC=1C=C(C(=CC1)OC)OC | C8H9FO2
reactant | thionyl chloride | 27 mmol, 1.95 mL | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-fluoro-4,5-dimethoxy-benzenesulfonyl chloride | FC1=C(C=C(C(=C1)OC)OC)S(=O)(=O)Cl | C8H8ClFO4S
